US08614226B2
A slurry of 297 mg (0.65 mmol) 3-bromo-5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-2-ylamine, 270 mg (1.30 mmol) 1-methyl-1H-pyrazole-4-boronic acid pinacol ester and 270 mg (1.95 mmol) potassium carbonate in 3 ml DMF was flushed with nitrogen and then 75 mg (0.07 mmol) tetrakis(triphenylphosphine)-palladium were added. This mixture was heated for 30 minutes at a temperature of 130° C. in the microwave. Water was added to the reaction mixture and the resulting precipitate was filtered off and washed with water. The residue was chromatographed on a silica gel column with dichloromethane/methanol as eluent yielding 5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-3-(1-methyl-1H-pyrazol-4-yl)-pyridin-2-ylamine as yellow crystals; HPLC-MS: 1.57 min, [M+H] 431.

reactant | 3-bromo-5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-2-ylamine | 0.65 mmol, 297 mg | BrC=1C(=NC=C(C1)C1=CC(=NC2=NC=CC=C12)C1=C(C=CC(=C1)Cl)F)N | C19H11BrClFN4
reactant | 1-methyl-1H-pyrazole-4-boronic acid pinacol ester | 1.30 mmol, 270 mg | CN1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
reactant | potassium carbonate | 1.95 mmol, 270 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)-palladium | 0.07 mmol, 75 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-3-(1-methyl-1H-pyrazol-4-yl)-pyridin-2-ylamine | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C=1C=C(C(=NC1)N)C=1C=NN(C1)C)F | C23H16ClFN6
